US07301024B2
Preparation of Gatifloxacin Form Y
Gatifloxacin-HCl (10 g) was suspended in 60 mL of a mixture of acetonitrile:H2O (90:10). The suspension was cooled to 5° C. At this an aqueous solution of NaOH 47% (0.7 eq) was added to neutralize the hydrochloride. The mixture was stirred at 5° C. for 1 hour and then the precipitate was collected by filtration and washed with the aqueous mixture (10 mL) ACN:H2O (90:10). The solid was dried under vacuum at 50° C. overnight. The solid was analyzed by XRD and found to be form Y.

reactant | Gatifloxacin HCl | 10 g | CC1CN(CCN1)C2=C(C=C3C(=C2OC)N(C=C(C3=O)C(=O)O)C4CC4)F.Cl
reactant | NaOH | 0.7 eq | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | acetonitrile H2O | C(C)#N.O
product | Gatifloxacin | CC1CN(CCN1)C2=C(C=C3C(=C2OC)N(C=C(C3=O)C(=O)O)C4CC4)F | C19H22FN3O4
